US09169187B2
To azido-bis[4-(12-docosoxydodecyloxy)phenyl]methane (72.0 mg, 58.7 μmol) were added toluene (2 ml), purified water (2 ml) and triphenylphosphine (29 mg, 110 μmol) and the mixture was vigorously stirred at 45° C. for 3 hr and 60° C. for 3.5 hr. The reaction mixture was cooled to room temperature, and 10% aqueous sodium hydrogen carbonate (2 ml) was added. After stirring for a while, toluene (8 ml) was added and the aqueous layer was discarded. The organic layer was washed with purified water (10 ml)×2. The organic layer was evaporated under reduced pressure, and the residue was crystallized from acetonitrile, and the obtained crystals were washed with purified water to give amino-bis[4-(12-docosoxydodecyloxy)phenyl]methane (44 mg, 36.5 μmol, 62%).

reactant | azido-bis[4-(12-docosoxydodecyloxy)phenyl]methane | 58.7 μmol, 72.0 mg | N(=[N+]=[N-])C(C1=CC=C(C=C1)OCCCCCCCCCCCCOCCCCCCCCCCCCCCCCCCCCCC)C1=CC=C(C=C1)OCCCCCCCCCCCCOCCCCCCCCCCCCCCCCCCCCCC | C81H147N3O4
reactant | triphenylphosphine | 110 μmol, 29 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | sodium hydrogen carbonate | 2 ml | C(O)([O-])=O.[Na+]
solvent | toluene | 8 ml | C1(=CC=CC=C1)C | C7H8
solvent | water | 2 ml | O | H2O
solvent | toluene | 2 ml | C1(=CC=CC=C1)C | C7H8
product | amino-bis[4-(12-docosoxydodecyloxy)phenyl]methane | 36.5 μmol, 44 mg, 62% | NC(C1=CC=C(C=C1)OCCCCCCCCCCCCOCCCCCCCCCCCCCCCCCCCCCC)C1=CC=C(C=C1)OCCCCCCCCCCCCOCCCCCCCCCCCCCCCCCCCCCC | C81H149NO4
